Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Adenocarcinoma of the bile duct 
 
Major Surgical or Invasive Procedure:
___: 
1. Diagnostic laparoscopy
2. Pancreaticoduodenectomy with extended bile duct resection
3. Open cholecystectomy
4. Placement of Golden Fiducials for Cyperknife therapy

 
History of Present Illness:
Mr. ___ is a ___ year old with PMH of HTN and BPH who 
initially presented with 1 week of diarrhea, a few days of dark 
colored urine and pruritus, found to have an elevated T 
bilirubin, abnormal abdominal ultrasound and CT scan which 
showed a 25 mm gallstone as well as intrahepatic and common 
hepatic duct
dilatation, concerning for possible malignancy. MRCP was 
performed which confirmed a 3.5cm segment of distal common 
hepatic and proximal come bile duct with irregular enhancement 
with necrotic periportal ___ s/f nodal involvement. 
He then underwent ERCP on ___ which confirmed a 
malignant-appearing stricture in the proximal CBD with plastic 
stent placement. His ampullar was normal and cholangiogram 
demonstrated a 2cm long, malignant appearing stricture in the
proximal CBD.  Cytology from the ERCP brushings were consistent 
for  adenocarcinoma.  He will undergo a whipple procedure.  

 
Past Medical History:
- Hypertension
- BPH
- Arthritis
- Prior Carpal Tunnel Surgery R Wrist
 
Social History:
___
Family History:
father - CAD
mother - pancreatic cancer
brother - HTN

 
Physical ___:
Prior To Discharge:
VS: 98.6, 68, 134/71, 18, 94% RA
GEN: Pleasant male without acute distress 
HEENT: NC/AT, PERRL, EOMI, no scleral icterus
CV: RRR
PULM: CTAB
ABD: Bilateral subcostal incision open to air with staples and 
c/d/I. RLQ with old JP site x 2, lateral with single suture, 
medial open to air 
EXTR: Warm, no c/c/e
 
Pertinent Results:
RECENT LABS:

___ 05:25AM BLOOD WBC-8.4 RBC-3.76* Hgb-11.7* Hct-35.5* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-16.2* RDWSD-55.7* Plt ___
___ 05:25AM BLOOD Glucose-143* UreaN-12 Creat-0.6 Na-144 
K-3.9 Cl-102 HCO3-31 AnGap-11
___ 04:40PM ASCITES Amylase-8
___ 04:40PM ASCITES Amylase-8

MICROBIOLOGY:
___ 2:00 pm SWAB      BILE CULTURE. 
      Fluid should not be sent in swab transport media.  Submit 
fluids in a
      capped syringe (no needle), red top tube, or sterile cup. 
                  **FINAL REPORT ___

GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

WOUND CULTURE (Final ___: 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h.  SECOND MORPHOLOGY. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------   <=2 S        4 S
AMPICILLIN/SULBACTAM--   <=2 S      <=2 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

 
Brief Hospital Course:
The patient with biopsy proven adenocarcinoma was admitted to 
the HPB Surgical Service on ___ for elective operation. On 
___, the patient underwent pylorus-preserving 
pancreaticoduodenectomy (Whipple) and open cholecystectomy, 
intraoperative patient spiked a fever and was continued on Zosyn 
for empiric coverage post operative, bile and blood cultures 
were sent (please see the Operative Note for details). After a 
brief, uneventful stay in the PACU, the patient arrived on the 
floor NPO with an NG tube, on IV fluids, with a foley catheter 
and a JP drain x 2 in place, and epidural catheter for pain 
control.  The patient was hemodynamically stable.
The ___ hospital course was uneventful and followed the 
Whipple Clinical Pathway without major deviations. 
Post-operative pain was initially well controlled with epidural 
analgesia, which was converted to oral pain medication when 
tolerating clear liquids. The NG tube was discontinued on POD# 
2, and the foley catheter discontinued at midnight of POD# 4. 
The patient subsequently voided without problem. The patient was 
started on sips of clears on POD# 3, which was progressively 
advanced as tolerated to a regular diet by POD# 6.  JP amylase 
was sent in the evening of  POD#6; the posterior JP was 
discontinued on POD# 6, and anterior JP was discontinued on POD 
7 as the output and amylase level were low. Patient was 
transitioned from Zosyn to PO Cipro on POD 4 to complete 7 days 
total. Patient remained afebrile with WBC within normal limits 
prior to discharge. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirrometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. He was transitioned to ___ Lovenox prior 
to discharge. The patient's blood sugar was monitored regularly 
throughout the stay; no insulin was required on discharge. 
At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs.  The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled. The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Lisinopril-HCTZ ___ QD
Finasteride 5 QD
Pravastatin 20 QD
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
do not exceed more then 3000 mg/day  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*30 
Syringe Refills:*0 
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tab by mouth QIDACHS Disp #*56 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
7.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*11 
8.  Senna 8.6 mg PO BID  
9.  Finasteride 5 mg PO DAILY  
10.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Locally advanced cholangiocarcinoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted to the surgery service at ___ for surgical 
resection of your biliary duct mass. You have done well in the 
post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ or Office RNs at 
___ if you have any questions or concerns. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.

 
Followup Instructions:
___